US05473072
A solution of 100 g (0.26 mole) of 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-but-2-inyl]-8-aza-spiro[4.5]decane-7,9-dione in 50 ml thiophen-free benzene is added to a suspension of 2 g of a palladium/carbon catalyst (palladium content about 5% by weight) and 50 ml of thiophen-free benzene under vigorous stirring at 20°-40° C. under the introduction of hydrogen under a pressure of 1 bar at such a rate that the hydrogen uptake of the unsaturated 8-[4-[4-pyrimidine-2-yl)-piperazine-1-yl]-but-2-inyl]-8-aza-spiro[4.5]decane-7,9-dione added is substantially identical with the calculated hydrogen consumption continuously measured with the aid of a gas burette. This practically means that when the addition of the active ingredient is stopped, the hydrogen consumption ceases within 5-10 seconds. The reaction temperature is 20°-40° C. and the reaction time is 1-4 hours. When the reduction has been terminated, the catalyst is filtered off. The catalyst can be directly used in the next hydrogenating operations without any further treatment. The filtrate is evaporated and the residue is suspended in isopropanol and filtered. Thus in the form of white crystals 100.3 g of 8-[4-[4-(pyrimidine-2yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7.9-dione base are obtained, yield: about 100%.Mp.:105°-106° C. (according to prior art 90°-98° C.). Content: (on the base) 99.8-100.1%. According to HPLC analysis the product contains only 0.1% of contaminations.

reactant | 8-[4-[4-(pyrimidine-2-yl)-piperazine-1-yl]-but-2-inyl]-8-aza-spiro[4.5]decane-7,9-dione | 0.26 mole, 100 g | N1=C(N=CC=C1)N1CCN(CC1)CC#CCN1C(CC2(CCCC2)CC1=O)=O | C21H27N5O2
reactant | hydrogen | [H][H] | H2
reactant | 8-aza-spiro[4.5]decane-7,9-dione | C1CCCC12CC(NC(C2)=O)=O | C9H13NO2
solvent | thiophen | 50 ml | S1C=CC=C1 | C4H4S
catalyst | palladium/carbon | 2 g | [Pd] | Pd
solvent | thiophen | 50 ml | S1C=CC=C1 | C4H4S
product | 8-[4-[4-(pyrimidine-2yl)-piperazine-1-yl]-butyl]-8-aza-spiro[4.5]decane-7.9-dione | 100.3 g, yield: about 100% | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | C21H31N5O2
